US07253192B2
G] [3-(1-Iodomethyl-cyclopropyl)-prop-1-ynyl]-trimethyl-silane
In analogy to the procedure described in example 34G], methanesulfonic acid 1-(3-trimethylsilanyl-prop-2-ynyl)-cyclopropylmethyl ester and NaI gave after 30 min at reflux temperature the title compound as orange oil.

reactant | methanesulfonic acid 1-(3-trimethylsilanyl-prop-2-ynyl)-cyclopropylmethyl ester | C[Si](C#CCC1(CC1)COS(=O)(=O)C)(C)C | C11H20O3SSi
reactant | NaI | [Na+].[I-]
product | [3-(1-Iodomethyl-cyclopropyl)-prop-1-ynyl]-trimethyl-silane | ICC1(CC1)CC#C[Si](C)(C)C | C10H17ISi
